Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Left inguinal hernia, intermittent groin pain. 
 
Major Surgical or Invasive Procedure:
Repair of sliding left inguinal hernia.

 
History of Present Illness:
Mr. ___ is a ___ male with a past medical history 
significant for ___ with hemi-diaphragmatic 
weakness, hypertension and pulmonary embolism in ___ on 
___ who presents for evaluation of left inguinal hernia.  
The patient reports that he has had a hernia for approximately ___ 
years, but that it is increasing in size.  He reports 
intermittent pain in the left inguinal region that occurs 
approximately every ___ days.  He endorses some constipation 
that he believes is somewhat diet related, but has also worsened 
as the hernia has grown larger.  His last bowel movement was 
yesterday and it was normal.  He has no difficulty urinating.

Of note, he must sleep with BiPAP secondary to his 
hemidiaphragmatic weakness.  The patient also says that he 
cannot breathe when lying flat.  Per his neurology note, on his 
last PFTs he is he was 53% of expected when upright and 17% of 
expected when supine.

 
Past Medical History:
Past medical history:
___
Hemidiaphragmatic weakness, sleeps with BiPAP
Hypertension
Gout
Pulmonary embolism diagnosed in ___ at ___ 
___,
on ___

Past surgical history: Denies

 
Social History:
___
Family History:
Father ___  
Mother COPD  

 
Physical ___:
Physical examination:
T 98.5 65 154/92 100% room air
General: no acute distress
CV: Regular rate and rhythm
Respiratory: easy work of breathing
Abdomen: Soft nontender nondistended
Groin: Large left inguinal hernia, not reducible
Extremities: Contractures of the hand, mild edema

Discharge Physical Exam:
VS: 99.6 PO 127 / 75 L Sitting 82 18 94 ra 
GEN: Awake, alert, pleasant and interactive.
CV: RRR
PULM: Clear bilaterally
ABD: Soft, non-distended, non-tender. Left groin incision with 
DSD, CDI.
EXT: Warm and dry. No edema. 

 
Pertinent Results:
___ 06:30AM BLOOD WBC-7.6 RBC-4.04* Hgb-11.3* Hct-37.0* 
MCV-92 MCH-28.0 MCHC-30.5* RDW-13.0 RDWSD-43.8 Plt ___
___ 06:30AM BLOOD ___ PTT-28.1 ___
___ 06:30AM BLOOD Glucose-91 UreaN-19 Creat-1.1 Na-143 
K-4.1 Cl-109* HCO3-22 AnGap-12
___ 06:30AM BLOOD Calcium-9.1 Phos-3.7 Mg-1.9

 
Brief Hospital Course:
Mr. ___ is a ___ yo M with ___ Disease with 
hemidiaphragmatic paralysis on BiPAP, recent pulmonary embolism 
on xarelto and hypertension who developed pain in the inguinal 
region and a bulge was noted on physical exam. He was referred 
to surgery outpatient and presented to ___ on ___ for 
planned hernia repair. An indirect, sliding, inguinal hernia was 
diagnosed and repaired. Please see operative report for details. 
Post operatively, he was admitted to the surgical floor.

On POD1 his diet was advanced to regular with good tolerability 
and therefore IV fluids were discontinued. Pain level was 
tolerable on oral regimen. Vital signs remained stable and he 
was given BiPAP overnight per home regimen. He initially had 
difficulty voiding and required straight catheterization once, 
but then was able to void spontaneously. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxazosin 8 mg PO DAILY 
2. Allopurinol ___ mg PO DAILY 
3. Clonidine Patch 0.3 mg/24 hr 1 PTCH TD QSUN 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. FoLIC Acid 1 mg PO DAILY 
6. Furosemide 60 mg PO DAILY 
7. Hydrocortisone Cream 1% 1 Appl TP BID 
8. Labetalol 200 mg PO TID 
9. Rivaroxaban 20 mg PO DAILY 
10. Tiotropium Bromide 1 CAP IH DAILY 
11. Valsartan 160 mg PO DAILY 
12. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
13. Ascorbic Acid ___ mg PO DAILY 
14. Cyanocobalamin 1000 mcg PO DAILY 
15. Ferrous Sulfate 325 mg PO DAILY 
16. lidocaine 4 % topical DAILY 
17. Thiamine 100 mg PO DAILY 
18. Multivitamins W/minerals 1 TAB PO DAILY 
19. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
Hold for loose stool.  
2.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze  
5.  Allopurinol ___ mg PO DAILY  
6.  Ascorbic Acid ___ mg PO DAILY  
7.  Clonidine Patch 0.3 mg/24 hr 1 PTCH TD QSUN  
8.  Cyanocobalamin 1000 mcg PO DAILY  
9.  Doxazosin 8 mg PO DAILY  
10.  Ferrous Sulfate 325 mg PO DAILY  
11.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
12.  FoLIC Acid 1 mg PO DAILY  
13.  Furosemide 60 mg PO DAILY  
14.  Hydrocortisone Cream 1% 1 Appl TP BID  
15.  Labetalol 200 mg PO TID  
16.  lidocaine 4 % topical DAILY  
17.  Multivitamins W/minerals 1 TAB PO DAILY  
18.  Rivaroxaban 20 mg PO DAILY 
OKAY to resume tonight, ___.  
19.  Thiamine 100 mg PO DAILY  
20.  Tiotropium Bromide 1 CAP IH DAILY  
21.  Valsartan 160 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left inguinal hernia, sliding, indirect.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Surgery Service on ___ 
after undergoing surgery to repair your left inguinal hernia. 
You tolerated the procedure well. Your diet was advanced to 
regular without difficulty. Your recovery was complicated by 
requiring catheterization for inability to empty your bladder. 
Over time, you were able to urinate on your own.

You are now doing better, tolerating a regular diet, and ready 
to be discharged from the hospital to continue your recovery 
from surgery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___